US07547710B2
To a solution of tert-butyl {[6-[5-(aminocarbonyl)-2-furyl]-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate (0.5 g, 1.0 mmol) in ethyl acetate (5 ml) was added 4N solution of hydrogen chloride in ethyl acetate (2 ml), and the mixture was stirred at room temperature for 3 hrs. The reaction mixture was concentrated under reduced pressure and the residue was crystallized from diisopropyl ether. The obtained crystals were dissolved in ethyl acetate (5 ml) and triethylamine (1 ml) was added. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was crystallized from diisopropyl ether to give 5-[3-(aminomethyl)-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]-2-furamide (0.29 g, yield 71%) as white crystals.

reactant | tert-butyl {[6-[5-(aminocarbonyl)-2-furyl]-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate | 1.0 mmol, 0.5 g | NC(=O)C1=CC=C(O1)C=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C | C31H35N3O4
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 5-[3-(aminomethyl)-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]-2-furamide | 0.29 g, yield 71% | NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)C1=CC=C(O1)C(=O)N)CC(C)C | C26H27N3O2
